US05525625
A solution of glacial acetic acid (15 mL), concentrated sulfuric acid (180 mL), and 1-(2-hydroxy-phenyl)-3-(3-methoxy-2-nitrophenyl)propane -1,3 -dione (770 mg, 2.43 mmol) is heated at reflux for 2.5 hours. The hot solution is poured onto crushed ice and H2O (200 mL), stirring vigorously for 30 minutes. The solution is cooled in a refrigerator. The resulting solid is filtered and washed with H2O to yield 2-(3-methoxy-2-nitrophenyl)-4-oxo-4H-[1]benzopyran (510 mg, 70%) as a brown solid.

reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 180 mL | S(O)(O)(=O)=O | H2O4S
reactant | 1-(2-hydroxy-phenyl)-3-(3-methoxy-2-nitrophenyl)propane -1,3 -dione | 2.43 mmol, 770 mg | OC1=C(C=CC=C1)C(CC(=O)C1=C(C(=CC=C1)OC)[N+](=O)[O-])=O | C16H13NO6
solvent | H2O | 200 mL | O | H2O
product | 2-(3-methoxy-2-nitrophenyl)-4-oxo-4H-[1]benzopyran | 510 mg, 70% | COC=1C(=C(C=CC1)C=1OC2=C(C(C1)=O)C=CC=C2)[N+](=O)[O-] | C16H11NO5
